US08877747B2
Step 3. 2-Bromo-3-(3,5-difluorophenyl)-6-{2-[1-(methylsulfonyl)piperidin-4-yl]ethoxy}-1H-inden-1-one
To a solution of t-butyl 6-(2-(piperidin-4-yl)ethoxy)-2-bromo-3-(3,5-difluorophenyl)-1H-inden-1-one (211 mg, 1.2 eq, 1.03 mmol) obtaind in Step 2 in CH2Cl2 at 0° C. was added triethylamine (1.5 eq) and methylsulfonyl chloride (1.0 eq). The mixture was stirred for 1 h at room temperature and diluted with CH2Cl2. The mixture was washed with H2O and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexanes=1:1) to obtain the title compound (58%).

reactant | t-butyl 6-(2-(piperidin-4-yl)ethoxy)-2-bromo-3-(3,5-difluorophenyl)-1H-inden-1-one | 1.03 mmol, 211 mg, 1.2 eq | C(C)(C)(C)C1=C2C(=C(C(C2=CC(=C1)OCCC1CCNCC1)=O)Br)C1=CC(=CC(=C1)F)F | C26H28BrF2NO2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 1.0 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-(3,5-difluorophenyl)-6-{2-[1-(methylsulfonyl)piperidin-4-yl]ethoxy}-1H-inden-1-one | 58% | BrC=1C(C2=CC(=CC=C2C1C1=CC(=CC(=C1)F)F)OCCC1CCN(CC1)S(=O)(=O)C)=O | C23H22BrF2NO4S
